Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Cholecystitis
 
Major Surgical or Invasive Procedure:
Open Cholecystectomy
 
History of Present Illness:
___ with HIV/AIDS initially presented with self-limiting acute 
cholecystitis in ___ which was conservatively treated with 
Unasyn, now admitted for elective cholecystectomy. 
 
Past Medical History:
HIV (CMV, PCP ___ ___ most recent CD4 T cell count of 580, 
undetectable viral load ___  
___'s Sarcoma s/p excision  
CAD s/p CABG (LAD only), AVR (porcine), aortic graft ___
PCP ___  
___ Disease, s/p radioactie iodine ablation  
Bipolar disorder, on Lithium, seroquel  
Depression s/p ECT c/b slight memory loss  
s/p Tonsillectomy  

 
Social History:
___
Family History:
Father with MI and died at ___.  Mother with a ___, died at 
___ with ?ovarian cancer. Brother healthy, living in ___. 
 Pt has no children. 
 
Physical Exam:
AVSS
Gen NAD, AxOx3, healthy looking
CV RRR, early systolic 'click' murmur
Pulm CTAB
Abd soft, R flank/RLQ fullness with R flank resolving 
ecchymosis, nontender, nondistended
Ext WWP, 2+ distal pulses
Wound staple line intact, no erythema/drainage. JP site sutured, 
no erythema/drainage.
 
Pertinent Results:
___ 08:35AM BLOOD WBC-10.8 RBC-3.94* Hgb-11.3* Hct-35.3* 
MCV-90 MCH-28.7 MCHC-32.0 RDW-15.5 Plt ___
___ 08:10AM BLOOD Hct-32.0*
___ 09:15PM BLOOD Hct-31.9*
___ 04:10PM BLOOD Hct-30.4*
___ 11:17AM BLOOD Hct-30.1* 
___ 12:33AM BLOOD Hct-26.7*
___ 03:02PM BLOOD Hct-36.2*

___ 08:35AM BLOOD ALT-65* AST-52* AlkPhos-117 TotBili-1.0
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation and treatment of acute on chronic cholecystitis.  On 
___ the patient underwent laparoscopic converted to open 
cholecystectomy.  This went well without complications (reader 
referred to the Operative Note for details). After a brief, 
uneventful stay in the PACU, the patient arrived on the floor 
NPO, on IV fluids and antibiotics, with a foley catheter, and IV 
pain medications for pain control.  The patient was 
hemodynamically stable.

Neuro: The patient received IV pain medications with good effect 
and adequate pain control.  When tolerating oral intake, the 
patient was transitioned to oral pain medications with good 
result.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated.  Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary.  Electrolytes were 
routinely followed, and repleted when necessary.  The patient 
had several bouts of watery stool incontinence.  Samples were 
sent for c. diff, which were negative.  His diarrhea 
subsequently improved, and there were no further episodes of 
incontinence.

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection.  Pt complained of loose 
stools, but as mentioned, the C. diff was negative.  He was kept 
on his antiretroviral medications throughout his 
hospitalization.

Heme: JP drain output was noted to be significant in the 24-hour 
period post-operatively and bloody in quality. Pt remained 
hemodynamically stable throughout. Hct dropped from 34 to 26, 
and he received two units of pRBCs with an appropriate 
hematocrit response and no further transfusion requirements.  
His Hct slowly trended back upwards, and the JP output decreased 
and became serosanguinous in nature.  On the day of discharge, 
the JP drain was removed.

Prophylaxis: Subcutaneous heparin was held during his stay due 
to the concern for bleeding.  Venodyne boots were used during 
this stay; he was also encouraged to get up and ambulate as 
early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs and stable hematocrit.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient received 
discharge teaching and follow-up instructions with verbalized 
understanding and agreement with the discharge plan.

 
Medications on Admission:
Acyclovir 400", Atorvastatin 10', Citalopram 10',  
Cyclosporine 0.05% 1 gtt ___, Darunavir (Prezista) 600",  
Lamivudine (Epivir) 150", Lamotrigine 100", 
Levothyroxine (Synthroid) 250 mcg daily ___, 125 mcg 
___,
Lithium SR 450", Opium tincture 10 mg/mL 5',  
Oxandrolone 5", Propanalol SA 80', Quetiapine 75',  
Raltegravir (Isentress) 400", Ritonavir (Norvir) 100",  
Sildenafil 100, Tadalafil (Cialis) ___ q3d, Testosterone
(Androgel) 2 pumps to skin daily, Acetylcysteine 600 mg ___, 
___, Ascorbic acid ___ mg ___ EC 81',  
Beta carotine 25,000 units 3x/week  
 
Discharge Medications:
1. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
2. Darunavir 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
6. Lithium Carbonate 450 mg Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO BID (2 times a day).  
7. Levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO once a 
day: ___.  
8. Quetiapine 50 mg Tablet Sustained Release 24 hr Sig: 1.5 
Tablet Sustained Release 24 hrs PO DAILY (Daily).  
9. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): ___ and ___.  
10. Lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
11. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
12. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
14. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
15. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic Cholecystitis
 
Discharge Condition:
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Diet: Regular diet

Medications: Please resume all regular home medications and take 
any new medications as ordered. 

Activity: No heavy lifting of items more than 10 pounds for 3 
weeks. You may resume moderate exercise at your discretion, no 
abdominal exercises.

Bathing: You may take a shower and let the water fall over the 
wound. Do not take a bath or submerge yourself in water for 3 
weeks.

Dressings: You may change the drain dressing as needed.  When it 
stays dry, you may leave it off.

Please call your doctor or return to the emergency room if you 
have any of the following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your incision becomes more red, painful, or has discharge.
* Pain not controlled by pain medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

 
Followup Instructions:
___